datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([C:21]([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:21]([C:20](=[C:19]([H:25])[H:26])[H:27])([C:22]([H:28])([H:29])[H:30])[C:23](=[C:24]([H:32])[H:33])[H:31],112.131
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2=[C:4]([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])[C:8]12[H:19],70.596632
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[H:15])[H:7],3.89112
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:11],126.65
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[S:8]([C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17])[H:16]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([S:8][H:16])([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17],84.9352
[H:0][H:1].[c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]2[c:11]1[H:18]>>[H:0].[H:1][c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]2[c:11]1[H:18],18.602064
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])[H:8],31.4218
[C:0](=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])[H:7].[H:12]>>[C:0]([C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:6])([H:7])[H:12],-1.995768
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])[H:5],50.7938
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([C:8]([H:20])([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])[H:19])[H:11],86.8598
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([H:17])([H:18])[H:19])[H:13])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])[H:13])[H:9])([H:7])[H:8],184.096
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[H:18]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[H:18])[H:11])[H:10],13.8909
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[S:7]=[C:8]([S:9][H:11])[H:10]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:11])[H:4].[S:7]=[C:8]([S:9])[H:10],-10.46
[C:0](#[C:1][C:2](=[C:3]=[C:4]([H:7])[H:8])[H:6])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]=[C:4]([H:7])[H:8])([H:6])[C:10]([C:9]([H:12])([H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15])[H:5],22.1752
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[S:10])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:14])([H:3])[H:4].[C:8]([C:9]=[S:10])([H:11])([H:12])[H:13],-3.3472
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])[H:10])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[H:10])[H:9])([H:6])([H:7])[H:8].[C:5]([H:14])([H:15])[H:16],139.519664
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]1[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[C:3]([C:4]1([H:10])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:14])[H:15])([H:7])([H:8])[H:9],133.051
